US07652053B2
cis-(S)-(5-Bromo-indan-2-ylmethyl)-[3-(2,5-dimethyl-benzoimidazol-1-yl)-cyclopentyl]-amine
This compound was prepared from cis-3-(2,5-dimethyl-benzoimidazol-1-yl)-cyclopentylamine hydrochloride and (S)-5-bromo-indan-2-carbaldehyde using the same reductive amination method described in previous example. 1H-NMR is consistent with the assigned structure. LC-MS showed a single peak, C24H28BrN3 (m/e) calcd 437.1467, obsd 438.1 (M+H).

reactant | cis-3-(2,5-dimethyl-benzoimidazol-1-yl)-cyclopentylamine hydrochloride | Cl.CC1=NC2=C(N1[C@H]1C[C@H](CC1)N)C=CC(=C2)C
reactant | (S)-5-bromo-indan-2-carbaldehyde | BrC=1C=C2C[C@H](CC2=CC1)C=O | C10H9BrO
product | cis-(S)-(5-Bromo-indan-2-ylmethyl)-[3-(2,5-dimethyl-benzoimidazol-1-yl)-cyclopentyl]-amine | BrC=1C=C2C[C@H](CC2=CC1)CN[C@@H]1C[C@@H](CC1)N1C(=NC2=C1C=CC(=C2)C)C | C24H28BrN3
